US04146630
4-[2-Pivaloyloxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole
A mixture of 5.1 g. 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole hydrochloride, 6.7 g. pivalic anhydride and 33.3 g. molten pivalic acid is stirred for 3 days at ambient temperature, then poured on to ice, neutralized with an aqueous solution of ammonia and extracted with methylene chloride. After evaporation of the extract, the oily residue obtained is taken up in methanol and rendered weakly acidic with dilute hydrochloric acid. Upon evaporating the solvent, there are obtained 2.53 g. (38% of theory) 4-[2-pivaloyloxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole hydrochloride; m.p. 131°-133° C.

reactant | 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole hydrochloride | Cl.OC(COC1=CC=CC=2NN=NC21)CN2CCC(CC2)COC2=CC=CC=C2
reactant | pivalic anhydride | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
reactant | 4-[2-pivaloyloxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole hydrochloride | Cl.C(C(C)(C)C)(=O)OC(COC1=CC=CC=2NN=NC21)CN2CCC(CC2)COC2=CC=CC=C2
solvent | methanol | CO | CH4O
product | 4-[2-Pivaloyloxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzotriazole | C(C(C)(C)C)(=O)OC(COC1=CC=CC=2NN=NC21)CN2CCC(CC2)COC2=CC=CC=C2 | C26H34N4O4
